US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3,4,5-trimethoxyphenyl)ethanol (Compound No. 3-16)
Following a procedure similar to that described in Example 6, but using 2 g of 2-amino-1-(3,4,5-trimethoxyphenyl)ethanol (prepared as described in Preparation 14), 2.35 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 70 ml of benzene, 60 ml of absolute methanol and 4.8 g of sodium cyanoborohydride, 3.14 g of the title compound were obtained having an Rf=0.21 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3,4,5-trimethoxyphenyl)ethanol | 2 g | NCC(O)C1=CC(=C(C(=C1)OC)OC)OC | C11H17NO4
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 2.35 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 4.8 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3,4,5-trimethoxyphenyl)ethanol | 3.14 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C23H31NO7
